US05824690
Synthesis of 1-[2-[3-phenyl-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid morpholine-amide
Prepare by the method of Example 88.6 using 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate and 4-phenyl-piperidine-4-carboxylic acid morpholine-amide hydrochloride to give, after chromatography on silica gel eluting sequentially with ethyl acetate and then 10% methanol/ethyl acetate, the title compound. HRMS calculated for C38H47N3O6 : 642.354312. Found: 642.356150.

reactant | 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)Cl)Cl)CCCS(=O)(=O)[O-])C=C(C1OC)OC
reactant | 4-phenyl-piperidine-4-carboxylic acid morpholine-amide hydrochloride | Cl.N1(CCOCC1)C(=O)N.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 1-[2-[3-phenyl-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid morpholine-amide | N1(CCOCC1)C(=O)N.C1(=CC=CC=C1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | InChI=1S/C34H40N2O6.C5H10N2O2/c1-40-28-22-25(23-29(41-2)30(28)42-3)31(37)36-21-15-33(24-36,26-10-6-4-7-11-26)14-18-35-19-16-34(17-20-35,32(38)39)27-12-8-5-9-13-27;6-5(8)7-1-3-9-4-2-7/h4-13,22-23H,14-21,24H2,1-3H3,(H,38,39);1-4H2,(H2,6,8)
